US07384934B2
(S)-10-[4-Ethyl-3-(2-methoxyethyl)piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene dihydrochloride
Combine (S)-10-[3-(2-methoxyethyl)piperazin-1-yl]-2-isopropyl 4H-3-thia-1,4,9-triazabenzo[f]azulene (0.103 g, 0.267 mmol), acetaldehyde (30 μL, 0.534 mmol), and sodium triacetoxyborohydride (0.085 g, 0.401 mmol) in dichloroethane (7 mL) and stir, at room temperature for 6 hours. Dilute the mixture with saturated aqueous sodium bicarbonate and extract three times with dichloromethane. Combine the organic layers, dry over sodium sulfate and concentrate under reduced pressure to give the crude product. Purification by flash chromatography, eluting with a step gradient starting with dichloromethane going to 5% 2N ammonia-methanol in dichloromethane, gives the free base of the title compound (0.79 g, 71%) as a yellow foam: mass spectrum (APCI): m/z=414.2 (M+1). Isolate clean product as the corresponding dihydrochloride in the manner described in Example 319. Exact Mass, Calc: 414.2328; Found: 414.2326.

reactant | (S)-10-[3-(2-methoxyethyl)piperazin-1-yl]-2-isopropyl 4H-3-thia-1,4,9-triazabenzo[f]azulene | 0.267 mmol, 0.103 g | COCC[C@H]1CN(CCN1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2 | C20H27N5OS
reactant | acetaldehyde | 0.534 mmol, 30 μL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.401 mmol, 0.085 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | dichloroethane | 7 mL | ClC(C)Cl | C2H4Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | (S)-10-[4-Ethyl-3-(2-methoxyethyl)piperazin-1-yl]-2-isopropyl-4H-3-thia-1,4,9-triazabenzo[f]azulene dihydrochloride | 0.79 g, 71% | Cl.Cl.C(C)N1[C@H](CN(CC1)C1=NC2=C(NC=3SC(=NC13)C(C)C)C=CC=C2)CCOC | InChI=1S/C22H31N5OS.2ClH/c1-5-26-11-12-27(14-16(26)10-13-28-4)20-19-22(29-21(25-19)15(2)3)24-18-9-7-6-8-17(18)23-20;;/h6-9,15-16,24H,5,10-14H2,1-4H3;2*1H/t16-;;/m0../s1
